US04578393
1-(2-Chlorophenyl)-6,7-methylenedioxy-1,4-dihydroisoquinol-3-one
This compound was prepared in an analogous manner to that described in DESCRIPTION 18, from 3,4-methylenedioxyphenylacetonitile and 2-chlorobenzaldehyde. m.p. 207°-9° C. (Ethanol).

reactant | 3,4-methylenedioxyphenylacetonitile | C1OC=2C=C(C=CC2O1)CC#N | C9H7NO2
reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | Ethanol | C(C)O | C2H6O
product | 1-(2-Chlorophenyl)-6,7-methylenedioxy-1,4-dihydroisoquinol-3-one | ClC1=C(C=CC=C1)C1NC(CC2=CC3=C(C=C12)OCO3)=O | C16H12ClNO3
